US08669271B2
4-[5-(4-Carbamoyl-2-fluoro-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (120 mg) is added to a solution of 4-[5-(4-carboxy-2-fluoro-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (150 mg) and ethyldiisopropylamine (100 mL) in N,N-dimethylformamide (1.50 mL) at room temperature. The mixture is stirred for 10 min prior to the addition of a solution of ammonia in methanol (7 M; 0.50 mL). The resulting mixture stirred at room temperature for 2 h. Water is added and the mixture is extracted with ethyl acetate/methanol. The combined extracts are washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (ethyl acetate). The crude product is triturated with ethyl acetate, filtered off, washed with diethyl ether and dried to give the title compound. LC (method 7): tR=1.28 min; Mass spectrum (ESI+): m/z=442 [M+H]+.

reactant | 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 120 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-[5-(4-carboxy-2-fluoro-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=C(C=C(C=C2)C(=O)O)F)O1 | C24H27FN2O5
reactant | ethyldiisopropylamine | 100 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ammonia | N | H3N
solvent | N,N-dimethylformamide | 1.50 mL | CN(C=O)C | C3H7NO
solvent | methanol | 7 M, 0.50 mL | CO | CH4O
solvent | Water | O | H2O
product | 4-[5-(4-Carbamoyl-2-fluoro-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=C(C=C(C=C2)C(N)=O)F)O1 | C24H28FN3O4
